US09024018B2
To a solution of 3-(methoxymethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxylic acid (512 mg; 2.28 mmol) in DMF (50 mL) was added HBTU (908 mg; 2.40 mmol). The solution was stirred for 20 minutes, then added dropwise over 20 minutes to a solution of phenylenediamine (370 mg; 6.84 mmol) in DMF (50 mL). The reaction mixture was stirred for 24 hours, then poured onto ice (1 kg), and allowed to stand until the ice had melted. The resulting orange solid was filtered, and purified by column chromatography (DCM:MeOH 98:2) to give N-(2-aminophenyl)-3-(methoxymethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide as an orange solid. (474 mg; 70%). δH (DMSO d6): 9.76 (1H, s), 8.99 (1H, s), 7.43 (1H, dd, J=7.9, 1.0), 6.99 (1H, td, J=7.6, 1.5), 6.84 (1H, dd, J=8.0, 1.3), 6.67 (1H, dd, J=7.6, 1.3), 5.64 (2H, s), 4.91 (2H, s), 3.44 (3H, s).

reactant | 3-(methoxymethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxylic acid | 2.28 mmol, 512 mg | COCN1N=NC=2N(C1=O)C=NC2C(=O)O | C7H7N5O4
reactant | HBTU | 2.40 mmol, 908 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | phenylenediamine | 6.84 mmol, 370 mg | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | N-(2-aminophenyl)-3-(methoxymethyl)-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide | NC1=C(C=CC=C1)NC(=O)C=1N=CN2C1N=NN(C2=O)COC | C13H13N7O3
